US08058276B2
Step 7.1: 6-Methoxy-benzo[d]isothiazole-3-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-amide
Prepared analogousely to step 6.1 from 2.0 g (9.57 mMol) 6-methoxy-benzo[d]isothiazole-3-carboxylic acid, 3.9 g (14.3 mMol) 4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-aniline, 13.3 ml (95.7 mMol) Et3N and 11.17 ml (50% in DMF; 19.1 mMol) propylphosphonic anhydride in 100 ml of dry DMF: m.p.: 156° C.; MS: [M+1]+=465.

reactant | 6-methoxy-benzo[d]isothiazole-3-carboxylic acid | 9.57 mMol, 2.0 g | COC1=CC2=C(C(=NS2)C(=O)O)C=C1 | C9H7NO3S
reactant | 4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-aniline | 14.3 mMol, 3.9 g | CN1CCN(CC1)CC1=C(C=C(N)C=C1)C(F)(F)F | C13H18F3N3
reactant | Et3N | 95.7 mMol, 13.3 ml | CCN(CC)CC | C6H15N
reactant | propylphosphonic anhydride | 19.1 mMol, 11.17 ml | CCCP(=O)=O | C3H7O2P
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 6-Methoxy-benzo[d]isothiazole-3-carboxylic acid [4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-amide | CN1CCN(CC1)CC1=C(C=C(C=C1)NC(=O)C1=NSC2=C1C=CC(=C2)OC)C(F)(F)F | C22H23F3N4O2S
